US09447024B1
D-serine (100 g, 0.9515 mole) was suspended in 600 ml methanol at room temperature. Acetyl chloride (224.0 g, 2.8545 mole) was added drop wise at −5° C. to 0° C. and stirred for 30 minutes. The reaction mixture was refluxed for 15 hours. Evaporation of the reaction mixture under reduced pressure followed by crystallization of the resulting residue from methanol and methyl tert-butyl ether, resulted in colorless solid of D-serine methyl ester hydrochloride (134.7 g, Yield: 91%, HPLC: 99.6%)

reactant | D-serine | 0.9515 mole, 100 g | N[C@H](CO)C(=O)O | C3H7NO3
reactant | Acetyl chloride | 2.8545 mole, 224.0 g | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 600 ml | CO | CH4O
product | D-serine methyl ester hydrochloride | 134.7 g, Yield: 91% | Cl.COC([C@H](N)CO)=O | InChI=1S/C4H9NO3.ClH/c1-8-4(7)3(5)2-6;/h3,6H,2,5H2,1H3;1H/t3-;/m1./s1
